US08252826B2
9.6 2-(4-{2-[2-(4-Chloro-phenyl)-2,4,5,6,7,8-hexahydro-cycloheptapyrazol-3-yl]-2-cyclohexyl-acetylamino}-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester
A solution of [2-(4-chloro-phenyl)-2,4,5,6,7,8-hexahydro-cycloheptapyrazol-3-yl]-cyclohexyl-acetic acid (40 mg, 103 umol) in thionyl chloride (2 ml) was heated under reflux conditions for 45 min. The solvent was removed under reduced pressure and the resulting crude [2-(4-chloro-phenyl)-2,4,5,6,7,8-hexahydro-cycloheptapyrazol-3-yl]-cyclohexyl-acetyl chloride was dissolved in CH2Cl2 (1 ml) and added to a solution of 2-(4-amino-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester (37 mg, 155 umol) and DMAP (38 mg, 310 umol) in CH2Cl2 (1 ml). The reaction mixture was stirred at ambient temperature for 14 h. Ice water/brine 1/1 was added and the mixture was extracted two times with iPrOAc. The combined extracts were washed with ice water/brine 1/1 and dried over Na2SO4. After filtration the solvent was removed under reduced pressure to give a brown oil which was purified by preparative HPLC on reversed phase eluting with a gradient of acetonitrile/water to obtain the title compound (15 mg, 25 umol; 24%) as brown solid. MS: m/e=610.3 [M+H+].

reactant | [2-(4-chloro-phenyl)-2,4,5,6,7,8-hexahydro-cycloheptapyrazol-3-yl]-cyclohexyl-acetic acid | 103 umol, 40 mg | ClC1=CC=C(C=C1)N1N=C2C(=C1C(C(=O)O)C1CCCCC1)CCCCC2 | C22H27ClN2O2
reactant | 2-(4-amino-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester | 155 umol, 37 mg | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)N)F)=O | C12H16FNO3
solvent | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMAP | 310 umol, 38 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-{2-[2-(4-Chloro-phenyl)-2,4,5,6,7,8-hexahydro-cycloheptapyrazol-3-yl]-2-cyclohexyl-acetylamino}-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester | 25 umol, 15 mg, 24% | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)NC(C(C1CCCCC1)C=1N(N=C2C1CCCCC2)C2=CC=C(C=C2)Cl)=O)F)=O | C34H41ClFN3O4
